US07169817B2
b) (R)-2-tert-Butoxycarbonylamino-2-methyl-4-(4-trifluoromethanesulfonyloxy-phenyl)-butyric acid ethyl ester
(R)-4-(4-Benzyloxy-phenyl)-2-tert-butoxycarbonylamino-2-methyl-butyric acid ethyl ester (2.78 g) is dissolved in ethyl acetate (100 ml) and hydrogenated at atmospheric pressure and RT using Pd/C (500 mg) for 16 h. Filtration over talcum is followed by removal of the solvent in vacuo to yield a colorless oil (Rf(diethyl ether/hexane=1/1)=0.32, MS: (ES+): 338.4 (M+H)+). The crude phenol (2.20 g) and pyridine (2.6 ml) are dissolved in DCM and cooled to 0° C. Trifluoromethane sulfonic anhydride (1.3 ml) is added dropwise and the mixture is stirred at 0° C. for 30 min. After addition of water (20 ml) and DCM (30 ml), the mixture is washed with 0.5N NaOH (15 ml), water (20 ml), 1 M citric acid (2×25 ml) and water (20 ml). The organic phase is dried over MgSO4, the solvent removed and the crude material purified by chromatography using diethyl ether/hexane (1/2) giving the desired product as colorless oil (Rf=0.44, MS: (ES+): 470.5 (M+H)+).

reactant | (R)-4-(4-Benzyloxy-phenyl)-2-tert-butoxycarbonylamino-2-methyl-butyric acid ethyl ester | 2.78 g | C(C)OC([C@](CCC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)NC(=O)OC(C)(C)C)=O | C25H33NO5
reactant | phenol | 2.20 g | C1(=CC=CC=C1)O | C6H6O
reactant | pyridine | 2.6 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethane sulfonic anhydride | 1.3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | (R)-2-tert-Butoxycarbonylamino-2-methyl-4-(4-trifluoromethanesulfonyloxy-phenyl)-butyric acid ethyl ester | C(C)OC([C@](CCC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)(C)NC(=O)OC(C)(C)C)=O | C19H26F3NO7S
